US07612114B2
2-(7-Methoxy-2,2-dimethylchroman-3-yl)phenylamine
Synthesized from 3-bromo-7-methoxy-2,2-dimethyl-2H-chromene and 1-bromo-2-nitrobenzene according to an analogous synthetic method to Preparation Example 107 described below, 7-methoxy-2,2-dimethyl-3-(2-nitrophenyl)-2H-chromene (790 mg) was used according to an analogous synthetic method to Example 30 to provide the title compound (580 mg).

reactant | 3-bromo-7-methoxy-2,2-dimethyl-2H-chromene | BrC=1C(OC2=CC(=CC=C2C1)OC)(C)C | C12H13BrO2
reactant | 1-bromo-2-nitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 7-methoxy-2,2-dimethyl-3-(2-nitrophenyl)-2H-chromene | 790 mg | COC1=CC=C2C=C(C(OC2=C1)(C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C18H17NO4
product | 2-(7-Methoxy-2,2-dimethylchroman-3-yl)phenylamine | 580 mg | COC1=CC=C2CC(C(OC2=C1)(C)C)C1=C(C=CC=C1)N | C18H21NO2
